US07279497B2
Preparation of (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-bromophenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (310 mg, 41%) was prepared using (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (400 mg, 1.42 mmol) and 4-bromophenyl-1H-imidazol-2-ylmethylamine (359 mg, 1.42 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 1.42 mmol, 400 mg | COC([C@]1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 4-bromophenyl-1H-imidazol-2-ylmethylamine | 1.42 mmol, 359 mg | BrC1=CC=C(C=C1)NCC=1NC=CN1 | C10H10BrN3
product | (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-bromophenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 310 mg, 41% | COC([C@]1(OC2=C([C@H]([C@@H]1O)N(CC=1NC=CN1)C1=CC=C(C=C1)Br)C=C(C=C2)[N+](=O)[O-])C)OC | C23H25BrN4O6
